US06787543B2
Sodium triacetoxyborohydride (127 mg) was added portionwise to a mixture of 2-benzhydrylpiperazine dihydrochloride (97.6 mg), N,N-diisopropylethylamine (0.104 ml) and 2-methoxy-5-[5-(trifluoromethyl)tetrazol-1-yl]benzaldehyde (61.2 mg) in a mixture of dichloromethane (5 ml) and acetic acid (1 drop) at 0° C. and the whole was stirred at 5° C.˜room temperature overnight. The mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (70:1). The fractions containing the objective compound were collected, evaporated under reduced pressure and treated with 4N hydrogen chloride in ethyl acetate solution to give 3-benzhydryl-1-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]piperazine dihydrochloride (74 mg) as a colorless powder.

reactant | Sodium triacetoxyborohydride | 127 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-benzhydrylpiperazine dihydrochloride | 97.6 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1NCCNC1
reactant | N,N-diisopropylethylamine | 0.104 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxy-5-[5-(trifluoromethyl)tetrazol-1-yl]benzaldehyde | 61.2 mg | COC1=C(C=O)C=C(C=C1)N1N=NN=C1C(F)(F)F | C10H7F3N4O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 3-benzhydryl-1-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]piperazine dihydrochloride | 74 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCN1)CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC | InChI=1S/C27H27F3N6O.2ClH/c1-37-24-13-12-22(36-26(27(28,29)30)32-33-34-36)16-21(24)17-35-15-14-31-23(18-35)25(19-8-4-2-5-9-19)20-10-6-3-7-11-20;;/h2-13,16,23,25,31H,14-15,17-18H2,1H3;2*1H
